US04060691
Substitution of an equivalent quantity of methyl 7-(3(R)-hydroxy-5-oxocyclopent-1-en-1-yl)heptanoate for the methyl 7-(3(S)-hydroxy-5-oxocyclopent-1-en-1-yl)heptanoate and substantial repetition of the procedure detailed above affords methyl 7-(3(R)-tetrahydropyran-2-yloxy-5-oxocyclopent-1-en-1-yl)heptanoate.

reactant | methyl 7-(3(R)-hydroxy-5-oxocyclopent-1-en-1-yl)heptanoate | O[C@H]1C=C(C(C1)=O)CCCCCCC(=O)OC | C13H20O4
reactant | methyl 7-(3(S)-hydroxy-5-oxocyclopent-1-en-1-yl)heptanoate | O[C@@H]1C=C(C(C1)=O)CCCCCCC(=O)OC | C13H20O4
product | methyl 7-(3(R)-tetrahydropyran-2-yloxy-5-oxocyclopent-1-en-1-yl)heptanoate | O1C(CCCC1)O[C@H]1C=C(C(C1)=O)CCCCCCC(=O)OC | C18H28O5
